US07138533B2
6-(6-Bromohexanoyl)-3,4-dihydroquinolin-2(1H)-one
Using 3,4-dihydroquinolin-2(1H)-one (2.94 g) and 6-bromohexanoyl chloride (5.1 g) according to the same method as that of Reference Example 1, the title compound was obtained as colorless crystals (1.62 g) having a melting point of 116 to 117° C.

reactant | 3,4-dihydroquinolin-2(1H)-one | 2.94 g | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | 6-bromohexanoyl chloride | 5.1 g | BrCCCCCC(=O)Cl | C6H10BrClO
product | 6-(6-Bromohexanoyl)-3,4-dihydroquinolin-2(1H)-one | BrCCCCCC(=O)C=1C=C2CCC(NC2=CC1)=O | C15H18BrNO2
